US04263437
A mixture of 100 mg of (5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetic acid, 100 mg of dicyclohexylcarbodiimide and 20 ml of chloroform was stirred under a nitrogen atmosphere at 0° C. for 20 minutes. To the resulting mixture was slowly added 1 ml of chloroform containing excess ammonia. The mixture was stirred at 0° C. for 30 minutes and then at room temperature for 1 hour. To this was added 500 g of ice water, and the mixture was acidified with acetic acid and extracted with 50 ml of chloroform. The extract was washed with water, a 5% sodium hydrogen carbonate solution and then with water and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a residue, to which was added ethyl acetate, and the mixture was filtered to remove any unsoluble substance. Thereafter, the solvent was removed by distillation to obtain a residue, which was chromatographed over silica gel and eluted with chloroform/ethanol (100/1) to obtain a solid. This was recrystallized from benzene/n-hexane to give 24 mg (yield: 24%) of (5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetamide as a colorless powder having a melting point of 165°-166° C.

reactant | (5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetic acid | 100 mg | N1=CC=CC=2CCC3=C(SC21)C=CC(=C3)CC(=O)O | C15H13NO2S
reactant | dicyclohexylcarbodiimide | 100 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5,6-dihydro benzo[b]pyrido[3,2-f]thiepin-8-yl)-acetamide | 24 mg, yield: 24% | N1=CC=CC=2CCC3=C(SC21)C=CC(=C3)CC(=O)N | C15H14N2OS
